US09328106B2
A solution of 1,3-Bis(2,4,6-trimethylphenyl)-2-imidazolidinylidene)dichloro(phenylmethylene)(tricyclohexylphosphine)ruthenium, “Grubb's catalyst 2nd generation”, CAS Reg. No. 246047-72-3, Sigma-Aldrich Product No. 569747, U.S. Pat. No. 6,111,121, U.S. Pat. No. 7,329,758 (375 mg, 0.42 mmol) in toluene (15 ml) was added to a solution of 5-[1-(allyloxymethyl)but-3-enyl]-1-methyl-4-nitro-pyrazole (527 mg, 2.10 mmol) in toluene (115 mL). The resulting solution was heated at reflux (120° C.) for 2.5 h. After cooling to room temperature, the solvent was removed under reduced pressure and the residue was purified via silica gel chromatography (0-100% EtOAc/heptane) to afford 1-methyl-4-nitro-5-(2,3,4,5-tetrahydrooxepin-3-yl)pyrazole (133 mg, 30%).

reactant | 5-[1-(allyloxymethyl)but-3-enyl]-1-methyl-4-nitro-pyrazole | 2.10 mmol, 527 mg | C(C=C)OCC(CC=C)C1=C(C=NN1C)[N+](=O)[O-] | C12H17N3O3
catalyst | Grubb's catalyst | Cl[Ru](Cl)([P](C1CCCCC1)(C2CCCCC2)C3CCCCC3)([P](C4CCCCC4)(C5CCCCC5)C6CCCCC6)=CC7=CC=CC=C7
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 115 mL | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-4-nitro-5-(2,3,4,5-tetrahydrooxepin-3-yl)pyrazole | 133 mg, 30% | CN1N=CC(=C1C1COC=CCC1)[N+](=O)[O-] | C10H13N3O3
